US08648084B2
5-bromo-N-(3,5-difluorophenyl)nicotinamide
Oxalyl chloride (1.2 mL) and DMF (25 μL) were added to 5-bromonicotinic acid (1.0 g, 4.95 mmol) suspended in CH2Cl2 (30 mL). The resulting mixture was stirred at room temperature for 12 min. It was then concentrated to dryness and azeotroped with toluene. The residual was then dissolved in toluene (30 mL). 3,5-Difluoroaniline (1.0 g, 7.8 mmol) was added followed by triethylamine (1.1 mL, 7.5 mmol). The resulting suspension was stirred at room temperature for 10 min. The reaction mixture was taken in 5% acetic acid(aq) (300 mL) and extracted with ethyl acetate (2×200 mL). The combined organic extract was washed with 1.0 M Na2CO3(aq) (2×100 mL) and brine. The organic layers were combined, dried (Na2SO4) and concentrated to dryness to provide the title compound (1.4 g, 93%). MS (APCI) m/z 313, 315 (M+H)+.

reactant | Oxalyl chloride | 1.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-bromonicotinic acid | 4.95 mmol, 1.0 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | 3,5-Difluoroaniline | 7.8 mmol, 1.0 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | triethylamine | 7.5 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 25 μL | CN(C)C=O | C3H7NO
product | 5-bromo-N-(3,5-difluorophenyl)nicotinamide | 1.4 g, 93% | BrC=1C=NC=C(C(=O)NC2=CC(=CC(=C2)F)F)C1 | C12H7BrF2N2O
